US06541505B1
6-morpholin-4-ylhexanenitrile.
Using morpholine and 6-chloro-hexanenitrile as substrates. MS (ion spray) m/z 183.

reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | 6-chloro-hexanenitrile | ClCCCCCC#N | C6H10ClN
product | 6-morpholin-4-ylhexanenitrile | N1(CCOCC1)CCCCCC#N | C10H18N2O
